US07176210B2
Preparation of Intermediate 5-(2-Chlorophenyl)-2H-Pyrazol-3-ylamine (I-1A-1a)
A solution of 2-chlorobenzoylacetonitrile (15.9 g, 89 mmol) and hydrazine hydrate (8.9 g, 0.18 mol) in ethanol (2 ml) was heated at reflux for 22 hr. After cooling to room temperature, the reaction was concentrated, in vacuo. The residue was dissolved in ethyl acetate, washed with water and brine, dried (MgSO4), and concentrated, in vacuo, to a brown oil. Flash chromatography using 10% ethyl acetate in methylene chloride, changing to 5% methanol in methylene chloride as eluant afforded title product I-1A-1a (17.3 g, quantitative): +ESI MS (M+1) 194.2; 1H NMR (400 MHz, CD3OD) δ 7.60–7.25 (m, 4H), 5.99 (br s, 1H).

reactant | 2-chlorobenzoylacetonitrile | 89 mmol, 15.9 g | ClC1=C(C(=O)CC#N)C=CC=C1 | C9H6ClNO
reactant | hydrazine hydrate | 0.18 mol, 8.9 g | O.NN
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 5-(2-Chlorophenyl)-2H-Pyrazol-3-ylamine | ClC1=C(C=CC=C1)C=1C=C(NN1)N | C9H8ClN3
